US07235574B2
ii) 1-[2-(4-Allyloxy-benzyloxy)-ethyl]-1H-[1,2,3]-triazole
197 mg 8.21 mmol) 95% sodium hydride were given at −50° C. to a solution of 1.00 g (5.47 mmol) 1-allyloxy-4-chloromethyl-benzene and 619 mg (5.47 mmol) 2-(1H-[1,2,3]-triazol-1-yl)-ethanol in 9.0 ml DMF. The mixture was allowed to warm slowly to r.t., stirred overnight and 10 ml water added. The formed oil was collected with 10 ml dichloromethane, the aqueous phase extracted with 10 ml dichloromethane and the combined organic phases dried over Na2SO4.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-allyloxy-4-chloromethyl-benzene | 5.47 mmol, 1.00 g | C(C=C)OC1=CC=C(C=C1)CCl | C10H11ClO
reactant | 2-(1H-[1,2,3]-triazol-1-yl)-ethanol | 5.47 mmol, 619 mg | N1(N=NC=C1)CCO | C4H7N3O
reactant | water | 10 ml | O | H2O
solvent | DMF | 9.0 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-Allyloxy-benzyloxy)-ethyl]-1H-[1,2,3]-triazole | C(C=C)OC1=CC=C(COCCN2N=NC=C2)C=C1 | C14H17N3O2
